US08217570B2
2-Amino-4,6-dichloropyrimidine 9.5 g (58 mmol), phenylboronic acid 17 g (140 mmol) and tetrakis(triphenylphosphine)palladium 2.7 g (2.3 mmol) were dissolved in 120 mL of 1,2-dimethoxyethane. A 2.0M sodium carbonate aqueous solution 60 mL was added thereto, and the solution was refluxed for 8 hours under argon atmosphere by heating. After finishing the reaction, the aqueous layer was removed. The organic layer was dried on anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The residue was refined by silica gel chromatography to obtain 11 g (yield: 77%) of 2-amino-4,6-diphenylpyrimidine.

reactant | 2-Amino-4,6-dichloropyrimidine | 58 mmol, 9.5 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | phenylboronic acid | 140 mmol, 17 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2.0M, 60 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 120 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 2.3 mmol, 2.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-amino-4,6-diphenylpyrimidine | 11 g, yield: 77% | NC1=NC(=CC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H13N3
